US06683096B2
A. Preparation of 2-(2-chloro-ethoxy)-4-methoxy-benzoic acid methyl ester
This compound was prepared following the procedure described in Example 1 (part C) starting with 5 g (27.4 mmol) of 2-hydroxy-5-methyl-benzoic acid methyl ester, 9 mL (60.3 mmol) of 1-bromo-2-chloro-ethane and 5.9 g (42.8 mmol) of potassium carbonate. After the work-up and purification, 6.6 g (99% of yield) of the desired product was obtained.

reactant | 2-hydroxy-5-methyl-benzoic acid methyl ester | 27.4 mmol, 5 g | COC(C1=C(C=CC(=C1)C)O)=O | C9H10O3
reactant | 1-bromo-2-chloro-ethane | 60.3 mmol, 9 mL | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 42.8 mmol, 5.9 g | C([O-])([O-])=O.[K+].[K+]
product | 2-(2-chloro-ethoxy)-4-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)OCCCl)=O | C11H13ClO4
